*
*|DSPF 1.5
*
*|DATE "Sun Jan 14 12:50:14 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "AOI211X2"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.1/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  AOI211X2 A0 A1 B0 C0 Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A0 5.33704e-16
*|P (A0 X 0 0.4540 1.8430)
*|I (MX31/M0#g MX31/M0 g X 0 0.4750 0.9700)
*|I (MX31/M1#g MX31/M1 g X 0 0.9050 0.9700)
*|I (MX27/M0#g MX27/M0 g X 0 0.4750 2.9850)
*|I (MX27/M1#g MX27/M1 g X 0 0.9050 2.9850)
*|S (A0#13 0.9050 1.7600)
*|S (A0#14 0.6900 1.7600)
*|S (A0#15 0.4650 1.7600)
*|S (A0#17 0.4600 1.7600)
C1 MX27/M1#g VSS 5.80525e-17
C2 MX27/M0#g VSS 6.61062e-17
C3 MX31/M1#g VSS 4.4658e-17
C4 MX31/M0#g VSS 5.10183e-17
C5 A0#14 VSS 1.10127e-16
C6 A0 VSS 2.03742e-16
Rg1 MX27/M1#g A0#13 387.458771 $W=0.15
Rg2 A0#13 A0#14 20.521515 $W=0.33
Rg3 A0#14 A0#15 20.521515 $W=0.33
Rg4 A0#15 MX31/M0#g 246.891388 $W=0.15
Rg5 A0#13 MX31/M1#g 246.891388 $W=0.15
Rg6 A0#15 MX27/M0#g 387.458771 $W=0.15
Rf7 A0#14 A0#17 24.817646 $W=0.17
Re8 A0 A0#17 152.039902 $W=0.26
*
*|NET A1 5.88105e-16
*|P (A1 X 0 1.3740 1.8430)
*|I (MX29/M0#g MX29/M0 g X 0 1.3350 0.9700)
*|I (MX29/M1#g MX29/M1 g X 0 1.7650 0.9700)
*|I (MX25/M0#g MX25/M0 g X 0 1.3350 2.9850)
*|I (MX25/M1#g MX25/M1 g X 0 1.7650 2.9850)
*|S (A1#13 1.7650 2.1000)
*|S (A1#14 1.5500 2.1000)
*|S (A1#15 1.3250 2.1000)
*|S (A1#17 1.3800 2.1000)
C7 MX25/M1#g VSS 6.16872e-17
C8 MX25/M0#g VSS 6.08224e-17
C9 MX29/M1#g VSS 5.63036e-17
C10 MX29/M0#g VSS 5.14989e-17
C11 A1#14 VSS 1.14722e-16
C12 A1 VSS 2.43071e-16
Rg9 MX25/M1#g A1#13 278.205414 $W=0.15
Rg10 A1#13 A1#14 20.521515 $W=0.33
Rg11 A1#14 A1#15 20.521515 $W=0.33
Rg12 A1#15 MX29/M0#g 356.144714 $W=0.15
Rg13 A1#13 MX29/M1#g 356.144714 $W=0.15
Rg14 A1#15 MX25/M0#g 278.205414 $W=0.15
Rf15 A1#14 A1#17 20.299999 $W=0.17
Re16 A1 A1#17 152.123550 $W=0.26
*
*|NET B0 6.76264e-16
*|P (B0 X 0 2.7540 1.9700)
*|I (MX32/M0#g MX32/M0 g X 0 2.7150 0.9700)
*|I (MX32/M1#g MX32/M1 g X 0 3.1450 0.9700)
*|I (MX28/M0#g MX28/M0 g X 0 2.7150 2.9850)
*|I (MX28/M1#g MX28/M1 g X 0 3.1450 2.9850)
*|S (B0#13 3.1450 1.7600)
*|S (B0#14 2.9300 1.7600)
*|S (B0#15 2.7050 1.7600)
*|S (B0#17 2.7600 1.7120)
C13 MX28/M1#g VSS 7.08091e-17
C14 MX28/M0#g VSS 6.77566e-17
C15 MX32/M1#g VSS 5.06786e-17
C16 MX32/M0#g VSS 5.10032e-17
C17 B0#17 VSS 1.35467e-16
C18 B0 VSS 3.0055e-16
Rg17 MX28/M1#g B0#13 387.458771 $W=0.15
Rg18 B0#13 B0#14 20.521515 $W=0.33
Rg19 B0#14 B0#15 20.521515 $W=0.33
Rg20 B0#15 MX32/M0#g 246.891388 $W=0.15
Rg21 B0#13 MX32/M1#g 246.891388 $W=0.15
Rg22 B0#15 MX28/M0#g 387.458771 $W=0.15
Rf23 B0#14 B0#17 17.481651 $W=0.218
Re24 B0 B0#17 152.124039 $W=0.26
*
*|NET C0 8.07204e-16
*|P (C0 X 0 3.2140 2.1040)
*|I (MX30/M0#g MX30/M0 g X 0 3.5750 0.9700)
*|I (MX30/M1#g MX30/M1 g X 0 4.0050 0.9700)
*|I (MX26/M0#g MX26/M0 g X 0 3.5750 2.9850)
*|I (MX26/M1#g MX26/M1 g X 0 4.0050 2.9850)
*|S (C0#13 4.0050 2.1000)
*|S (C0#14 3.7900 2.1000)
*|S (C0#15 3.5650 2.1000)
*|S (C0#17 3.2200 2.1000)
C19 MX26/M1#g VSS 6.7814e-17
C20 MX26/M0#g VSS 6.18512e-17
C21 MX30/M1#g VSS 5.35268e-17
C22 MX30/M0#g VSS 4.99597e-17
C23 C0#17 VSS 7.68064e-17
C24 C0#14 VSS 1.33883e-16
C25 C0 VSS 3.63364e-16
Rg25 MX26/M1#g C0#13 278.205414 $W=0.15
Rg26 C0#13 C0#14 20.521515 $W=0.33
Rg27 C0#14 C0#15 20.521515 $W=0.33
Rg28 C0#15 MX30/M0#g 356.144714 $W=0.15
Rg29 C0#13 MX30/M1#g 356.144714 $W=0.15
Rg30 C0#15 MX26/M0#g 278.205414 $W=0.15
Rf31 C0#14 C0#17 50.417648 $W=0.17
Re32 C0#17 C0 152.001923 $W=0.26
*
*|NET Y 1.40006e-15
*|P (Y X 0 3.6920 2.2480)
*|I (MX32/M0#d MX32/M0 d X 0 2.7905 0.9700)
*|I (MX32/M1#s MX32/M1 s X 0 3.0695 0.9700)
*|I (MX30/M0#d MX30/M0 d X 0 3.6505 0.9700)
*|I (MX30/M1#s MX30/M1 s X 0 3.9295 0.9700)
*|I (MX29/M0#d MX29/M0 d X 0 1.4105 0.9700)
*|I (MX29/M1#s MX29/M1 s X 0 1.6895 0.9700)
*|I (MX26/M0#d MX26/M0 d X 0 3.6505 2.9850)
*|I (MX26/M1#s MX26/M1 s X 0 3.9295 2.9850)
*|S (Y#1 1.5500 1.1500)
*|S (Y#3 2.9300 1.1140)
*|S (Y#6 3.7900 2.7450)
*|S (Y#7 3.7900 1.0250)
C26 MX26/M0#d VSS 1.68652e-18
C27 MX29/M0#d VSS 1.3177e-16
C28 MX30/M0#d VSS 1.08179e-16
C29 MX32/M0#d VSS 1.23398e-16
C30 Y#1 VSS 1.97546e-16
C31 Y#3 VSS 1.94318e-16
C32 Y#7 VSS 1.71053e-16
C33 Y#6 VSS 3.35301e-16
C34 Y VSS 1.36812e-16
Rf33 Y#1 MX29/M0#d 21.052942 $W=0.17
Rf34 Y#3 MX32/M0#d 170.342346 $W=0.17
Rf35 MX26/M0#d Y#6 11.826667 $W=0.45
Rf36 Y#7 MX30/M0#d 85.013977 $W=0.465
Re37 Y#6 Y 76.175003 $W=0.355
Re38 Y Y#7 0.430634 $W=0.355
Re39 Y#7 Y#3 0.421370 $W=0.23
Re40 Y#3 Y#1 152.736069 $W=0.23
Rmw41 MX32/M1#s MX32/M0#d 0.001000 $W=1000000
Rmw42 MX30/M1#s MX30/M0#d 0.001000 $W=1000000
Rmw43 MX29/M1#s MX29/M0#d 0.001000 $W=1000000
Rmw44 MX26/M1#s MX26/M0#d 0.001000 $W=1000000
*
*|NET 13 7.53466e-16
*|I (MX31/M0#s MX31/M0 s X 0 0.3995 0.9700)
*|I (MX31/M1#d MX31/M1 d X 0 0.9805 0.9700)
*|I (MX29/M0#s MX29/M0 s X 0 1.2595 0.9700)
*|I (MX29/M1#d MX29/M1 d X 0 1.8405 0.9700)
*|S (13#2 0.2600 0.9700)
*|S (13#3 0.2550 0.7550)
*|S (13#5 1.1200 0.9700)
*|S (13#6 1.1150 0.7550)
*|S (13#8 1.9800 0.9700)
*|S (13 1.9750 0.7550)
C35 MX29/M1#d VSS 8.26553e-17
C36 MX31/M1#d VSS 8.58035e-17
C37 MX31/M0#s VSS 7.7079e-17
C38 13#3 VSS 1.49805e-16
C39 13#6 VSS 1.76694e-16
C40 13 VSS 1.8143e-16
Rf45 13#2 13#3 15.725715 $W=0.175
Rf46 MX31/M0#s 13#2 7.500000 $W=0.175
Rf47 13#5 13#6 167.725708 $W=0.175
Rf48 MX31/M1#d 13#5 7.500000 $W=0.175
Rf49 13#8 13 15.725715 $W=0.175
Rf50 MX29/M1#d 13#8 7.500000 $W=0.175
Re51 13 13#6 152.467392 $W=0.23
Re52 13#6 13#3 152.467392 $W=0.23
Rmw53 MX29/M0#s MX31/M1#d 0.001000 $W=1000000
*
*|NET 14 1.23955e-15
*|I (MX28/M0#d MX28/M0 d X 0 2.7905 2.9850)
*|I (MX28/M1#s MX28/M1 s X 0 3.0695 2.9850)
*|I (MX27/M0#s MX27/M0 s X 0 0.3995 2.9850)
*|I (MX27/M1#d MX27/M1 d X 0 0.9805 2.9850)
*|I (MX25/M0#s MX25/M0 s X 0 1.2595 2.9850)
*|I (MX25/M1#d MX25/M1 d X 0 1.8405 2.9850)
*|S (14#2 0.2550 3.0050)
*|S (14#4 0.2600 2.9850)
*|S (14#7 1.1150 3.0050)
*|S (14#9 1.1200 2.9850)
*|S (14#12 1.9750 3.0050)
*|S (14#14 1.9800 2.9850)
*|S (14 2.9300 3.0050)
*|S (14#19 1.9750 3.0050)
*|S (14#20 1.1150 3.0050)
C41 MX27/M1#d VSS 2.88222e-18
C42 MX27/M0#s VSS 2.35626e-19
C43 MX28/M0#d VSS 1.95366e-16
C44 14#14 VSS 5.01826e-17
C45 14#9 VSS 6.05522e-17
C46 14#4 VSS 4.77903e-17
C47 14#2 VSS 1.96299e-16
C48 14#7 VSS 2.60449e-16
C49 14#12 VSS 2.43532e-16
C50 14 VSS 1.82261e-16
Rf54 14#2 14#4 1.462857 $W=0.175
Rf55 MX27/M0#s 14#4 5.000000 $W=0.175
Rf56 14#7 14#9 1.462857 $W=0.175
Rf57 MX27/M1#d 14#9 5.000000 $W=0.175
Rf58 14#12 14#14 1.462857 $W=0.175
Rf59 MX25/M1#d 14#14 5.000000 $W=0.175
Rf60 14 MX28/M0#d 6.505882 $W=0.17
Re61 14 14#19 152.519028 $W=0.23
Re62 14#19 14#20 0.467391 $W=0.23
Re63 14#20 14#2 152.467392 $W=0.23
Re64 14#12 14#19 152.000000 $W=0.0289
Re65 14#7 14#20 152.000000 $W=0.0289
Rmw66 MX28/M1#s MX28/M0#d 0.001000 $W=1000000
Rmw67 MX25/M0#s MX27/M1#d 0.001000 $W=1000000
*
*|NET 16 9.36967e-16
*|I (MX28/M0#s MX28/M0 s X 0 2.6395 2.9850)
*|I (MX28/M1#d MX28/M1 d X 0 3.2205 2.9850)
*|I (MX26/M0#s MX26/M0 s X 0 3.4995 2.9850)
*|I (MX26/M1#d MX26/M1 d X 0 4.0805 2.9850)
*|S (16 2.5000 3.3750)
*|S (16#3 3.3600 3.3750)
*|S (16#5 4.2200 3.3750)
C51 MX26/M1#d VSS 1.47271e-16
C52 MX28/M1#d VSS 2.05523e-16
C53 MX28/M0#s VSS 1.7319e-16
C54 16#3 VSS 1.39793e-16
C55 16#5 VSS 1.21541e-16
C56 16 VSS 1.49649e-16
Rf68 16 MX28/M0#s 34.364708 $W=0.17
Rf69 16#3 MX28/M1#d 186.364716 $W=0.17
Rf70 16#5 MX26/M1#d 34.364708 $W=0.17
Re71 16#5 16#3 152.467392 $W=0.23
Re72 16#3 16 152.467392 $W=0.23
Rmw73 MX26/M0#s MX28/M1#d 0.001000 $W=1000000
*
*Instance Section
*
MX32/M0	MX32/M0#d	MX32/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX32/M1	VSS	MX32/M1#g	MX32/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX31/M0	VSS	MX31/M0#g	MX31/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX31/M1	MX31/M1#d	MX31/M1#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX30/M0	MX30/M0#d	MX30/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX30/M1	VSS	MX30/M1#g	MX30/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX29/M0	MX29/M0#d	MX29/M0#g	MX29/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX29/M1	MX29/M1#d	MX29/M1#g	MX29/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX28/M0	MX28/M0#d	MX28/M0#g	MX28/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX28/M1	MX28/M1#d	MX28/M1#g	MX28/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX27/M0	VDD	MX27/M0#g	MX27/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX27/M1	MX27/M1#d	MX27/M1#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX26/M0	MX26/M0#d	MX26/M0#g	MX26/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX26/M1	MX26/M1#d	MX26/M1#g	MX26/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX25/M0	VDD	MX25/M0#g	MX25/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX25/M1	MX25/M1#d	MX25/M1#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
.ENDS
